US06900215B2
1-[5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]-1H-pyrazole (300 mg, 1.0 mmol) was coupled to 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol (256 mg, 1.0 mmol) using the method in Example 1. Purification by chromatography on silica gel eluting with dichloromethane containing 5% methanol then trituration with diethyl ether gave 2-[3-(4-fluoro-3-(pyrazol-1-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol as a white solid: δH (400 MHz, CDCl3) 1.63 (6H, s), 4.40 (1H, br s), 6.54 (1H, t, J 2), 7.09 (1H, d, J 7), 7.40-7.44 (2H, m), 7.77 (1H, d, J 2), 7.89 (1H, s), 8.13 (1H, t, J 3), 8.16-8.19 (1H, m), 8.65 (1H, d, J 7); m/z (ES+) 338 (M++H).

reactant | 1-[5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]-1H-pyrazole | 1.0 mmol, 300 mg | CC1(COB(OC1)C=1C=CC(=C(C1)N1N=CC=C1)F)C | C14H16BFN2O2
reactant | 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | 1.0 mmol, 256 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
product | 2-[3-(4-fluoro-3-(pyrazol-1-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)N2N=CC=C2 | C18H16FN5O
